US09193720B2
To a stirred solution of 4-bromobenzene-1,2-diol (300 mg, 1.587 mmol), 2-(3-methoxyphenyl)ethanol (966 mg, 6.35 mmol) and Ph3P (2082 mg, 7.94 mmol) in THF (15 mL) was added DEAD (1.256 mL, 7.94 mmol) at rt. After 18 h, water (10 mL) was added and the mixture was extracted with ether (50 mL), dried (Na2SO4), filtered and concentrated. The residue was then purified by Biotage (5-25% EtOAc/hexane) to afford 3,3′-(((4-bromo-1,2-phenylene)bis(oxy))bis(ethane-2,1-diyl))bis(methoxybenzene) (140 mg, 0.306 mmol, 19.29% yield) as light yellow oil. 1H NMR (500 MHz, CDCl3) δ 7.27-7.18 (m, 2H), 7.05-6.97 (m, 2H), 6.94-6.86 (m, 4H), 6.81 (d, J=8.2 Hz, 2H), 6.75 (d, J=8.2 Hz, 1H), 4.25-4.05 (m, 4H), 3.82 (d, J=1.3 Hz, 6H), 3.12 (q, J=7.4 Hz, 4H).

reactant | 4-bromobenzene-1,2-diol | 1.587 mmol, 300 mg | BrC=1C=C(C(=CC1)O)O | C6H5BrO2
reactant | 2-(3-methoxyphenyl)ethanol | 6.35 mmol, 966 mg | COC=1C=C(C=CC1)CCO | C9H12O2
reactant | Ph3P | 7.94 mmol, 2082 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 7.94 mmol, 1.256 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 3,3′-(((4-bromo-1,2-phenylene)bis(oxy))bis(ethane-2,1-diyl))bis(methoxybenzene) | 0.306 mmol, 140 mg, 19.29% yield | BrC1=CC(=C(C=C1)OCCC=1C=C(C=CC1)OC)OCCC=1C=C(C=CC1)OC | C24H25BrO4
